US05358951
2-Butyl-6-ethenyl-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
To a suspension of 4.49 g of 2-Butyl-6-ethenyl-4(1H)-quinazolinone in 70 ml of dry tetrahydrofuran at room temperature is rapidly added 23.63 g of a 1.0M solution of lithium bis(trimethyl- silyl)amide in tetrahydrofuran. After stirring for 20 minutes at room temperature 21.94 g of 5-(4'-(bromomethyl)-[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole is rapidly added in one portion and the reaction mixture heated at reflux for 48 hours. After cooling to room temperature, the reaction mixture is concentrated in vacuo to a residue which is purified by chromatography on silica gel by eluting with 1:3 ethyl acetate-hexanes to give 9.58 g of the desired product as a yellow solid. FAB mass spec 705 (M+H).

reactant | 2-Butyl-6-ethenyl-4(1H)-quinazolinone | 4.49 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=C | C14H16N2O
reactant | lithium bis(trimethyl- silyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-(4'-(bromomethyl)-[1,1'-biphenyl]-2-yl]-1-(triphenylmethyl)-1H-tetrazole | 21.94 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-Butyl-6-ethenyl-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 9.58 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C | C47H40N6O
